US05856326
Step A: 4-(tert-Butyldimethylsilyloxymethyl)-1-triphenylmethylimidazole
tert-Butyldimethylsilylchloride (2.83 g, 18.76 mmol) was added to a suspension of 4-hydroxymethyl-1-triphenylmethylimidazole (5.80 g, 17.05 mmol) in DMF (200 mL) containing imidazole (3.48 g, 51.1 mmol). After 15 min, a clear colorless solution was obtained which was stirred at room temperature. When reaction was complete, the DMF was removed in vacuo and the residue patitioned between ethyl acetate and water. The organic phase was washed with water, saturated brine, and dried over magnesium sulfate. The title compound was obtained as a clear gum.

reactant | tert-Butyldimethylsilylchloride | 18.76 mmol, 2.83 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4-hydroxymethyl-1-triphenylmethylimidazole | 17.05 mmol, 5.80 g | OCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
reactant | imidazole | 51.1 mmol, 3.48 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4-(tert-Butyldimethylsilyloxymethyl)-1-triphenylmethylimidazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2OSi
